US04748087
Tributyltin ethoxyacrylate
Tributyltin methoxide (5 g; 0.0155M) and 2-hydroxyethyl acrylate (1.8 g; 0.0155M) were mixed together in a round bottom flask which was then put on a rotary evaporator for 0.5 hr to strip off the methanol produced. 6.5 g (100% of theory) of the title compound was obtained. The product was subjected to infrared and NMR spectral analysis and the results are summarised in Table S1 below. In the NMR spectrum a small peak at δ=3.8 was observed which was assigned to residual unreacted tributyltin methoxide.

reactant | Tributyltin methoxide | 0.0155M, 5 g | C[O-].C(CCC)[Sn+](CCCC)CCCC
reactant | 2-hydroxyethyl acrylate | 0.0155M, 1.8 g | C(C=C)(=O)OCCO | C5H8O3
product | Tributyltin ethoxyacrylate | C(C)OC(C(=O)[O-])=C.C(CCC)[Sn+](CCCC)CCCC | InChI=1S/C5H8O3.3C4H9.Sn/c1-3-8-4(2)5(6)7;3*1-3-4-2;/h2-3H2,1H3,(H,6,7);3*1,3-4H2,2H3;/q;;;;+1/p-1
